US07071175B1
4-(2-tert-Butoxycarbonyl4-phenyl-but-2-enyl)-piperidine-1-carboxylic acid tert-butyl ester (0.8 g, 1.93 mmol) in DMF (10 mL) was added to a suspension of potassium carbonate (0.20 g, 1.44 mmol) ) and 4-methoxy-α-toluenethiol (0.54 mL, 3.85 mmol) in DMF (10 mL) under nitrogen. The mixture was heated to 75° C. for 24 h and allowed to cool to room temperature. The reaction mixture was then poured into H2O and extracted with ethyl acetate. The organic layers were combined and washed with water. The organic layer was dried, filtered, and concentrated under reduced pressure to give 1.8 g crude material. The crude product was purified by column chromatography (ethyl acetate/hexane, 1:10) to give 4-[2-tert-butoxycarbonyl-3-(4-methoxy-benzylsulfanyl)4-phenyl-butyl]-piperidine-1-carboxylic acid tert-butyl ester (0.55 g, 50%).

reactant | 4-(2-tert-Butoxycarbonyl4-phenyl-but-2-enyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.93 mmol, 0.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(=CCC1=CC=CC=C1)C(=O)OC(C)(C)C | C25H37NO4
reactant | potassium carbonate | 1.44 mmol, 0.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methoxy-α-toluenethiol | 3.85 mmol, 0.54 mL | COC1=CC=C(C=C1)CS | C8H10OS
reactant | H2O | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-[2-tert-butoxycarbonyl-3-(4-methoxy-benzylsulfanyl)4-phenyl-butyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.55 g, 50% | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(C(CC1=CC=CC=C1)SCC1=CC=C(C=C1)OC)C(=O)OC(C)(C)C | C33H47NO5S
